US05962694
5-(4-Chloro-2-fluoro-5-methylphenyl)-1,2-dihydro-2-methyl-3H-pyrazol-3-one
34.7 g (0.75 mol) of methylhydrazine were added to a solution of 177 g (0.68 mol) of ethyl 3-(4-chloro-2-fluoro-5-methylphenyl)-3-oxopropionate in 500 ml of diethylene glycol. After 6 hours at 100° C., the mixture was poured into 4 l of water. The solids were subsequently separated off and dried. Yield: 133 g; m.p.: 155-156° C.

reactant | methylhydrazine | 0.75 mol, 34.7 g | CNN | CH6N2
reactant | ethyl 3-(4-chloro-2-fluoro-5-methylphenyl)-3-oxopropionate | 0.68 mol, 177 g | ClC1=CC(=C(C=C1C)C(CC(=O)OCC)=O)F | C12H12ClFO3
reactant | water | 4 l | O | H2O
solvent | diethylene glycol | 500 ml | C(COCCO)O | C4H10O3
product | 5-(4-Chloro-2-fluoro-5-methylphenyl)-1,2-dihydro-2-methyl-3H-pyrazol-3-one | ClC1=CC(=C(C=C1C)C1=CC(N(N1)C)=O)F | C11H10ClFN2O
